US07560481B2
(1-methylpiperidin-2-yl)methyl methanesulfonate
To a solution of 1-methyl-2-piperidine-methanol (Aldrich, 0.27 mL, 2.1 mmol) in 10 mL tetrahydrofuran (THF) at 0° C. was added triethylamine (0.87 mL, 6.22 mmol) followed by methanesulfonyl chloride (0.24 mL, 3.1 mmol). The mixture was stirred at 0° C. for 10 min then the ice-bath was removed and the reaction mixture was stirred at 23° C. for an additional 1.5 h. The reaction mixture was filtered though Celite with THF and concentrated under reduced pressure. This crude material was used directly in the next reaction.

reactant | 1-methyl-2-piperidine-methanol | 2.1 mmol, 0.27 mL | CN1C(CCCC1)CO | C7H15NO
reactant | triethylamine | 6.22 mmol, 0.87 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.1 mmol, 0.24 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (1-methylpiperidin-2-yl)methyl methanesulfonate | CS(=O)(=O)OCC1N(CCCC1)C | C8H17NO3S
